US07615562B2
(2,2,6,6-Tetramethyl-piperidin-4-yl)-[4-(6-trifluoromethyl-1H-indol-3-yl)-pyrimidin-2-yl]-amine
The title compound was prepared as described in Example 215, starting from 1-(tert-butyl-dimethyl-silanyl)-6-trifluoromethyl-1H-indole (prepared by TBDMS protection of 6-trifluoromethyl-1H-indole) and (4-chloro-pyrimidin-2-yl)(2,2,6,6-tetramethyl-piperidin-4-yl)-amine, followed by in situ cleavage of the TBDMS protecting group with catalytic amounts of TBAF. Yield: 640 mg (77%).

reactant | 1-(tert-butyl-dimethyl-silanyl)-6-trifluoromethyl-1H-indole | C(C)(C)(C)[Si](N1C=CC2=CC=C(C=C12)C(F)(F)F)(C)C | C15H20F3NSi
reactant | (4-chloro-pyrimidin-2-yl)(2,2,6,6-tetramethyl-piperidin-4-yl)-amine | ClC1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C | C13H21ClN4
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
product | (2,2,6,6-Tetramethyl-piperidin-4-yl)-[4-(6-trifluoromethyl-1H-indol-3-yl)-pyrimidin-2-yl]-amine | CC1(NC(CC(C1)NC1=NC=CC(=N1)C1=CNC2=CC(=CC=C12)C(F)(F)F)(C)C)C | C22H26F3N5
